### PR TITLE
`continuous_big`

### PR DESCRIPTION
**Pull request by Tragicus**
##### Motivation for this change
A general continuity lemma for bigops.

##### Checklist

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [ ] added corresponding documentation in the headers

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Merge policy

As a rule of thumb:
- PRs with several commits that make sense individually and that
  all compile are preferentially merged into master.
- PRs with disorganized commits are very likely to be squash-rebased.

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

File: theories/function_spaces.v [hunk 1]
```diff
@@ -1557,6 +1557,40 @@ End cartesian_closed.
 
 End currying.
 
+Section big_continuous.
+
+Lemma cvg_big (T : Type) (U : topologicalType) [F : set_system T] [I : Type]
+    (r : seq I) (P : pred I) (Ff : I -> T -> U) (Fa : I -> U)
+    (op : U -> U -> U) (x0 : U):
```
Comment (affeldt-aist) [inline theories/function_spaces.v]:
```suggestion
    (op : U -> U -> U) (x0 : U) :
```

File: theories/function_spaces.v [hunk 2]
```diff
@@ -1557,6 +1557,40 @@ End cartesian_closed.
...
+  \big[op/x0]_(i <- r | P i) (Ff i x) @[x --> F] -->
+    \big[op/x0]_(i <- r | P i) Fa i.
+Proof.
+move=> FF opC0 cvg_f.
+elim: r => [|x r IHr].
+  rewrite big_nil.
+  under eq_cvg do rewrite big_nil.
+  exact: cvg_cst.
+rewrite big_cons (eq_cvg _ _ (fun x => big_cons _ _ _ _ _ _)).
+case/boolP: (P x) => // Px.
```
Comment (affeldt-aist) [inline theories/function_spaces.v]:
```suggestion
case: ifPn => // Px.
```

File: theories/function_spaces.v [hunk 3]
```diff
@@ -1557,6 +1557,40 @@ End cartesian_closed.
...
+apply: (@cvg_comp _ _ _ (fun x1 => (Ff x x1, \big[op/x0]_(j <- r | P j) Ff j x1)) _ _ (nbhs (Fa x, \big[op/x0]_(j <- r | P j) Fa j)) _ _ (continuous_curry_cvg opC0)).
```
Comment (affeldt-aist) [inline theories/function_spaces.v]:
```suggestion
apply: (@cvg_comp _ _ _
  (fun x1 => (Ff x x1, \big[op/x0]_(j <- r | P j) Ff j x1)) _ _
  (nbhs (Fa x, \big[op/x0]_(j <- r | P j) Fa j)) _ _
  (continuous_curry_cvg opC0)).
```

Comment (affeldt-aist) [reply theories/function_spaces.v]: Just because I couldn't read it easily ^_^
